US05574042
To a mixture of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine (100 mg), acetic acid (0.5 ml) and water (1.0 ml) was added an aqueous solution (1 ml) of sodium cyanate (138 mg) at 40° C. The mixture was stirred at the same temperature for 1 hour and evaporated in vacuo. The residue was partitioned into dichloromethane and a saturated aqueous solution of sodium hydrogen carbonate and the organic layer was separated. The aqueous layer was extracted with dichloromethane twice. The combined organic layers were washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (dichloromethane:methanol=10:1, V/V) followed by crystallization from ethyl acetate--diethyl ether to give 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(ureidoacetyl)amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (72 mg) as crystals.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine | 100 mg | NCC(=O)N(C)C=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C18H17BrCl2N4O2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanate | 1 ml, 138 mg | [O-]C#N.[Na+]
solvent | water | 1.0 ml | O | H2O
product | 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(ureidoacetyl)amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 72 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CNC(=O)N)=O)C)Cl)C | C19H18BrCl2N5O3
